US03931235
To a solution of 60.0 g. (1.50 moles) of sodium hydroxide and 78.6 g. (0.250 mole) of bis(4-hydroxy-6-methyl-2-oxo-3-pyranyl)disulfide in 750 ml. of water at 42°C. was added 47.9 g. (0.275 mole) of sodium hydrosulfite. The solution was allowed to stand for 30 minutes and then was acidified by the addition of concentrated hydrochloric acid, keeping the temperatures below 45°C. by the addition of a sufficient quantity of crushed ice. The precipitated, off-white solid was collected on a filter and dried in vacuo over calcium chloride for approximately 15 hours. The product weighed 76.3 g. (96 percent) and melted at 167°-169°C. (dec.). One recrystallization from methyl ethyl ketone gave the pure 4-hydroxy-3-mercapto-6-methyl-2-pyrone as light yellow crystals, m.p. 168°-169°C. (dec.).

reactant | sodium hydroxide | 1.50 moles | [OH-].[Na+]
reactant | bis(4-hydroxy-6-methyl-2-oxo-3-pyranyl)disulfide | 0.250 mole | OC1=C(C(OC(=C1)C)=O)SSC=1C(OC(=CC1O)C)=O | C12H10O6S2
reactant | sodium hydrosulfite | 0.275 mole | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 4-hydroxy-3-mercapto-6-methyl-2-pyrone | OC1=C(C(OC(=C1)C)=O)S | C6H6O3S
